US04530715
9.2 g (0.0625 mol) of chloral were added dropwise to 8.3 g (0.05 mol) of 1-methyl-1-(1,2,4-triazol-1-yl-acetyl)-cyclopropane, 20 ml of glacial acetic acid and 13.6 g (0.1 mol) of sodium acetate, the internal temperature increasing to approx. 45° C. The reaction mixture was stirred overnight at 80° C. and was thereafter cooled to room temperature and stirred with a mixture of 100 ml of water and 100 ml of ether. The resulting solid was filtered off under suction and recrystallized from methanol. 3.1 g (20% of theory) of 1,1,1-trichloro-2-hydroxy-3-(1,2,4-triazol-1yl)-4-(1-methylcycloprop-1-yl)-butan-4-one of melting point 216° to 218° C. were obtained.

reactant | chloral | 0.0625 mol, 9.2 g | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | 1-methyl-1-(1,2,4-triazol-1-yl-acetyl)-cyclopropane | 0.05 mol, 8.3 g | CC1(CC1)C(CN1N=CN=C1)=O | C8H11N3O
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | sodium acetate | 0.1 mol, 13.6 g | C(C)(=O)[O-].[Na+]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | water | 100 ml | O | H2O
product | 1,1,1-trichloro-2-hydroxy-3-(1,2,4-triazol-1yl)-4-(1-methylcycloprop-1-yl)-butan-4-one | 3.1 g, 20% | ClC(C(C(C(=O)C1(CC1)C)N1N=CN=C1)O)(Cl)Cl | C10H12Cl3N3O2
